US07935699B2
2-(4-Methanesulfonyl-3-methyl-phenyl)-3-(tetrahydro-pyran-4-yl)-propionic acid methyl ester (1.30 g, 3.82 mmol) was dissolved in tetrahydrofuran:ethanol:water (6:3:2) reaction (50 mL) and treated with lithium hydroxide monohydrate (800 mg, 19.1 mmol) at 25° C. It was stirred at 25° C. for 2 h. The reaction was then diluted with a 1 M aqueous solution of potassium hydrogen sulfate (100 mL) and then extracted with ethyl acetate (1×200 mL), the organic layer was then dried over sodium sulfate, filtered and concentrated in vacuo with silica gel (2 g) and purified by Biotage Flash Chromatography (40S column, Silica gel, 10% methanol/ethyl acetate) to afford 2-(4-methanesulfonyl-3-methyl-phenyl)-3-(tetrahydro-pyran-4-yl)-propionic acid (1.15 g, 92%) as a colorless oil.

reactant | 2-(4-Methanesulfonyl-3-methyl-phenyl)-3-(tetrahydro-pyran-4-yl)-propionic acid methyl ester | 3.82 mmol, 1.30 g | COC(C(CC1CCOCC1)C1=CC(=C(C=C1)S(=O)(=O)C)C)=O | C17H24O5S
reactant | lithium hydroxide monohydrate | 19.1 mmol, 800 mg | O.[OH-].[Li+]
solvent | tetrahydrofuran ethanol water | O1CCCC1.C(C)O.O
solvent | potassium hydrogen sulfate | 100 mL | S(=O)(=O)(O)[O-].[K+]
product | 2-(4-methanesulfonyl-3-methyl-phenyl)-3-(tetrahydro-pyran-4-yl)-propionic acid | 1.15 g, 92% | CS(=O)(=O)C1=C(C=C(C=C1)C(C(=O)O)CC1CCOCC1)C | C16H22O5S
